US05703273
Triethylphosphite (16.6 g, 0.1 mmol), paraformaldehyde (3.0 g, 0.1 mmol) and ethanolamine (48.8 g, 0.8 mmol) was charged into a round bottom flask equipped with magnetic stir bar and reflux condenser. The reaction was heated to 100° C. for 16 h. Base hydrolysis of the intermediate esters was achieved by adding 2 equiv of NaOH (16 g of a 50% solution) and heating to 120° C. for 16 hours. The reaction was allowed to cool and was concentrated under vacuum. Methanol (100 mL) was added on the solvent was again removed under vacuum. This was repeated several times until a white solid formed the flask. The solid, which is a mixture of inorganic salts and sodium N-(2-hydroxyethyl) aminomethylphosphonate, was filtered and dried under vacuum to give 56% yield of sodium N-hydroxyethylaminomethylphosphonate. 31P-NMR obtained in D2O containing conc. HCl (pH=of sample is 0.7)δ=10.8 ppm. FAB-MS obtained in a glutathione/HCl matrix M+H=156.

reactant | Triethylphosphite | 0.1 mmol, 16.6 g | C(C)OP(OCC)OCC | C6H15O3P
reactant | paraformaldehyde | 0.1 mmol, 3.0 g | C=O | CH2O
reactant | ethanolamine | 0.8 mmol, 48.8 g | C(O)CN | C2H7NO
reactant | NaOH | 2 equiv | [OH-].[Na+]
product | sodium N-hydroxyethylaminomethylphosphonate | 56% yield | OCCNCP([O-])([O-])=O.[Na+].[Na+] | InChI=1S/C3H10NO4P.2Na/c5-2-1-4-3-9(6,7)8;;/h4-5H,1-3H2,(H2,6,7,8);;/q;2*+1/p-2
